US04362666
According to the method illustrated by Examples 1 and 2, the 12-formyl-2-methyl-3,4-dioxo-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine is reduced with diborane, to yield the 2,12-dimethyl-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine, which is converted into its monomaleate melting at 173°-175°.

reactant | 12-formyl-2-methyl-3,4-dioxo-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine | C(=O)C1=CC=C2C3N(C4=C(CN21)C=CC=C4)C(C(N(C3)C)=O)=O | C17H15N3O3
reactant | diborane | B#B | B2
product | 2,12-dimethyl-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine | CN1CC2N(C3=C(CN4C2=CC=C4C)C=CC=C3)CC1 | C17H21N3
